US06465467B1
Step 1: tert-Butyl 4-(2-hydroxyphenyl)-1-piperazinecarboxylate.
Triethylamine (8.23 mL, 59.5 mmol) was added to a stirred solution of 2-(1-piperazinyl)phenol dihydrobromide (9.87 g, 29.0 mmol) in a mixture of water and dioxane (1:1, 60 mL). The reaction mixture was cooled on an ice-bath (0° C.) and di-tert-butyldicarbonate (6.33 g, 29.0 mmol) was added in one portion. The resulting mixture was allowed to warm to room temperature and stirred for 15 h. The mixture was concentrated to a small volume. Water (20 mL) was added and the white crystals formed were filtered off and dried (1 mm Hg, 70° C.) to give a quantitative yield (7.24 g) of the title compound: mp 115-117° C. Anal. (C15H22N2O3) C, H, N.

reactant | Triethylamine | 59.5 mmol, 8.23 mL | C(C)N(CC)CC | C6H15N
reactant | 2-(1-piperazinyl)phenol dihydrobromide | 29.0 mmol, 9.87 g | Br.Br.N1(CCNCC1)C1=C(C=CC=C1)O
reactant | di-tert-butyldicarbonate | 29.0 mmol, 6.33 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | O | H2O
solvent | dioxane | 60 mL | O1CCOCC1 | C4H8O2
product | tert-Butyl 4-(2-hydroxyphenyl)-1-piperazinecarboxylate | 7.24 g, quantitative yield | OC1=C(C=CC=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H22N2O3
